US07956064B2
Methyl 4-oxo-4,5-dihydrothieno[3,2-c]quinoline-7-carboxylate (1.0 eq, 17 mg, 0.066 mmol) was suspended in a mixture of chloroform (0.3 ml) and acetic acid (0.1 ml). NBS was added (9.5 eq, 112 mg, 0.63 mmol) and the mixture stirred at 70° C. for 16 hours. Water and aqueous ammonia was added and the material was extracted with CH2Cl2 (2×). The combined extracts were dried over Na2SO4 and the solvent removed in vacuo to provide methyl 2-bromo-4-oxo-4,5-dihydrothieno[3,2-c]quinoline-7-carboxylate (17 mg, 76%). LCMS (ES): >85% pure, m/z 338 [M]+, 340 [M+2]+; 1H NMR (CDCl3/CD3OD, 9:1, 400 MHz) δ 3.99 (s, 3H), 7.30 (m, 1H), 7.69 (d, J=8.4, 1H), 7.45 (m, 1H), 7.88 (br d, J=8, 1H), 8.05 (br s, 1H) ppm.

reactant | Methyl 4-oxo-4,5-dihydrothieno[3,2-c]quinoline-7-carboxylate | 0.066 mmol, 17 mg, 1.0 eq | O=C1NC=2C=C(C=CC2C2=C1C=CS2)C(=O)OC | C13H9NO3S
reactant | NBS | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | Water | O | H2O
reactant | ammonia | N | H3N
solvent | chloroform | 0.3 ml | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
product | methyl 2-bromo-4-oxo-4,5-dihydrothieno[3,2-c]quinoline-7-carboxylate | 17 mg, 76% | BrC1=CC=2C(NC=3C=C(C=CC3C2S1)C(=O)OC)=O | C13H8BrNO3S
